US05364875
Part A. A solution of 2-amino-1H-benzimidazole (5.00 g, 57.5 mmol) and triethylamine (7.50 mL, 53.8 mmol) in ethylene dichloride (150 mL) was treated with a solution of 5-bromovaleryl chloride (5.00 mL, 37.6 mmol) in ethylene dichloride (50 mL) with stirring, for 20 hours at ambient temperature. The solution was washed with water (2×200 mL), dried over anhydrous magnesium sulfate, filtered and evaporated to afford a solid. The solid was recrystallized from methanolacetonitrile to afford pure 5-chloro-N-(1H-benzimidazol-2-yl)-pentanamide, m.p. 161°-163° C. (2.98 g, 11.8 mmol). 1H NMR (d6 -DMSO): 12.14 (1H, br s); 11.56 (1H, br s); 7.44 (2H, dd, J=5.9, 3.0 Hz); 7.08 (2H, dd, J=5.8, 2.9 Hz); 3.58 (2H, t, J=6.6 Hz); 2.49 (2H, t, J=6.9 Hz); 1.96-1.71 (4H, m). Successive crops of solid from the mother liquor proved to be 5-bromo-N-(1H-benzimidazol-2-yl)-pentanamide (2.85 g, 9.62 mmol; total yield of products 58%).

reactant | 2-amino-1H-benzimidazole | 57.5 mmol, 5.00 g | NC1=NC2=C(N1)C=CC=C2 | C7H7N3
reactant | triethylamine | 53.8 mmol, 7.50 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromovaleryl chloride | 37.6 mmol, 5.00 mL | BrCCCCC(=O)Cl | C5H8BrClO
reactant | ethylene dichloride | 150 mL | C(CCl)Cl | C2H4Cl2
reactant | ethylene dichloride | 50 mL | C(CCl)Cl | C2H4Cl2
product | 5-chloro-N-(1H-benzimidazol-2-yl)-pentanamide | ClCCCCC(=O)NC1=NC2=C(N1)C=CC=C2 | C12H14ClN3O
